US05322853
1.1 Preparation of 5-(2,3-dichlorophenoxy)-4-chloro-2nitroaniline
A mixture of 171 g of 2,3-dichlorophenol and 186 g of 4,5-dichloro-2-nitroaniline is heated to 150° C. 101 g of a 50% potassium hydroxide solution are added dropwise to the dark-red liquid over a period of 1 hour. The water of reaction formed is distilled off with a small amount of phenol. The reaction mixture is stirred overnight at 150° C. and then, at that temperature, 450 ml of dimethylformamide are added. The solution is allowed to cool and is all poured onto a mixture of 3 1 of water and 150 ml of concentrated sodium hydroxide solution. The greenish suspension is stirred at room temperature for 1 hour, and the crystals that form are filtered off and washed neutral with water and then dried. The still moist yellowish crystals are used in crude form in the next reaction step.

reactant | 2,3-dichlorophenol | 171 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | 4,5-dichloro-2-nitroaniline | 186 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 5-(2,3-dichlorophenoxy)-4-chloro-2nitroaniline | ClC1=C(OC=2C(=CC(=C(N)C2)[N+](=O)[O-])Cl)C=CC=C1Cl | C12H7Cl3N2O3
